2117-01-17 06:42:00 Physician Resident Progress Note
Chief Complaint: Post-Arrest
   24 Hour Events:
 MULTI LUMEN - START [**2117-1-16**] 05:43 PM
 INVASIVE VENTILATION - START [**2117-1-16**] 06:09 PM
 TRAUMA LINE - START [**2117-1-16**] 08:24 PM
 ARTERIAL LINE - START [**2117-1-16**] 10:22 PM
   - started on artic sun, dopamine, propofol
   - sedation insufficient; started on fent/versed and later cisatricurium
   - a line placement impossible in radial and axillary. Placed in left
   femoral
   - pt brady to 20, rewarmed, epi drip started
   - still anuric
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-1-17**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Epinephrine - 0.05 mcg/Kg/min
   Dopamine - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-1-17**] 12:00 AM
   Furosemide (Lasix) - [**2117-1-17**] 03:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-17**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 34.3
C (93.7
   Tcurrent: 34.3
C (93.7
   HR: 29 (29 - 113) bpm
   BP: 118/58(72) {87/54(-24) - 139/82(101)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,093 mL
                                                                  1,974 mL
   PO:
             TF:
   IVF:
                                                                  1,093 mL
                                                                  1,894 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                     65 mL
   Urine:
                                                                     15 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,078 mL
                                                                  1,909 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (340 - 600) mL
   RR (Set): 28
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.25/47/46/20/-6
   Ve: 11.8 L/min
   PaO2 / FiO2: 46
   Physical Examination
   General Appearance:  Intubated
   Neurologic: Unresponsive, Large/Fixed Pupils bilaterally
   Card: brady, irregular, no murmur/r/g
   Peripheral Vascular: pulses not palbale; extremities warm
   Skin:  Not assessed
   Labs / Radiology
   201 K/uL
   15.2 g/dL
   302 mg/dL
   3.4 mg/dL
   20 mEq/L
   5.8 mEq/L
   70 mg/dL
   105 mEq/L
   135 mEq/L
   47.3 %
   20.9 K/uL
        [image002.jpg]
                             [**2117-1-16**]  09:35 PM
                             [**2117-1-16**]  09:42 PM
                             [**2117-1-16**]  10:01 PM
                             [**2117-1-16**]  11:31 PM
                             [**2117-1-17**]  12:45 AM
                             [**2117-1-17**]  12:50 AM
                             [**2117-1-17**]  01:25 AM
                             [**2117-1-17**]  02:20 AM
                             [**2117-1-17**]  03:29 AM
                             [**2117-1-17**]  03:54 AM
   WBC
   18.8
   20.9
   Hct
   46.7
   47
   47.3
   Plt
   148
   201
   Cr
   3.3
   3.4
   TropT
   1.34
   1.19
   TCO2
   22
   22
   21
   21
   22
   21
   21
   22
   Glucose
   276
   302
   Other labs: PT / PTT / INR:36.1/43.6/3.7, CK / CKMB /
   Troponin-T:870/41/1.19, ALT / AST:317/304, Alk Phos / T Bili:106/1.2,
   Differential-Neuts:89.1 %, Lymph:3.1 %, Mono:7.2 %, Eos:0.2 %, Lactic
   Acid:1.8 mmol/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   1. CARDIAC ARREST: Etiology includes VT/Vfib secondary to scar tissue
   from prior infarction vs. new ischemic event.  Neurologic etiologies
   such as seizure or stroke are also possible.  His pupils are fixed and
   dilated indicating either medication effect (paralytic) or neurological
   catastrophe. He is bradycardic; may be secondary to infarction vs.
   [**Location (un) **] reflex vs  medication effect given that he was on a b-blocker,
   although this is less likely.
   - cooling protocol with Arctic Sun aborted [**2-9**] bradycardia
   - trend enzymes and labs
   - neurology consult, 48 hour EEG per protocol
 likely to weigh in on
   brain death
   - sedation with Fentanyl/Versed and paralytics PRN for shivering
   - aspirin, lipitor for possible NSTEMI
   - hold off on heparin for now given INR is 3.0
 3.7
   - hold on b-blocker while hypotensive on dopamine
   - continue amiodarone for arrhythmia
   .
   2. RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lungs sound clear but diminished, chest CT with mild pulmonary
   edema.
   - wean vent settings as tolerated
   - Fentanyl/Versed for sedation with PRN paralytic
   .
   3. ANURIC RENAL FAILURE: Current electrolytes and acid/base status is
   increasingly acidotic and hyperkalemic.  Etiology for renal failure is
   likely ATN s/p shock and poor perfusion.  Per report, pt received ~2L
   NS at the OSH and 1L NS in the ED with no output since. No response to
   Lasix. Renal failure likely to worse with epinephrine and severe
   bradycardia.
   - monitor volume status
   - urine electrolyes, UA
   - hold ACE, renally dose meds
   .
   4. CONGESTIVE HEART FAILURE: EF of 35-40%.  Pt is already intubated,
   has mild pulmonary edema on chest CT.
   - fluids to try to preserve kidney function
   - monitor respiratory status
   - holding ACE
   .
   5. ELEVATED WBC: Likely in the setting of stress response to cardiac
   arrest, also possibly due to NSTEMI.
   - blood cultures, urine culture
   - continue to monitor
   - hold on antibiotics for now
   .
   6. DM:
   - continue home insulin regimen of Lantus
   - regular insulin sliding scale while NPO
   .
   7. FEN: NPO for now; IV fluids
   .
   8. ACCESS: R femoral triple lumen; L arterial line; L intraosseous
   access placed in the field
   .
   9. PPX: INR therapeutic on Coumadin for DVT prophylaxis; Famotidine for
   stress ulcer prophylaxis; colace and senna PRN
   .
   CODE: FULL, confirmed with health care proxy [**Name (NI) **] [**Name (NI) **]
   .
   COMM:  HCP is son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10331**] (H) [**Telephone/Fax (1) 10332**] (cell)
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-1-16**] 05:43 PM
   18 Gauge - [**2117-1-16**] 05:44 PM
   20 Gauge - [**2117-1-16**] 05:44 PM
   Trauma line - [**2117-1-16**] 08:24 PM
   Arterial Line - [**2117-1-16**] 10:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   Medical Decision Making
   His poor prognosis was discussed with the family. Will switch
   ventilators. Will rotate pt to see if we can optimize V/Q match.

2117-01-18 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2117-1-17**] 09:00 AM
 EEG - At [**2117-1-17**] 11:30 AM
 TRAUMA LINE - STOP [**2117-1-17**] 12:45 PM
 EKG - At [**2117-1-17**] 04:05 PM
 DIALYSIS CATHETER - START [**2117-1-17**] 06:47 PM
   - on dopamine 15, isoproterenol 2, HR initially around 40, sBP 110s,
   but since 6pm, HR in the 60s-70s, sBP in the 130s.  Overnight, dopamine
   titrated down to 5, isoproterenol down to 1. HR 50-60s, sBP in the
   100s.
   - EKG sinus rhythm
   - neuro recs: will consider cold caloric testing since currently
   completely no brainstem function seen on exam other than patient
   breathing over the vent.
   - family meeting held, family wants everything done, including HD.
   Blessing by monk done in the room
   - INR reversed with FFP for HD line placement
   - HD line put in by renal, CVVH started
   - after FFP wore off, INR and PTT were [**Last Name (LF) 3779**], [**First Name3 (LF) **] heparin gtt was held
   - intraosseous access removed without complication
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-1-18**] 02:44 AM
   Infusions:
   Isuprel - 1 mcg/min
   Dopamine - 5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Atropine - [**2117-1-17**] 09:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-18**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   HR: 62 (29 - 70) bpm
   BP: 128/58(81) {90/47(59) - 160/75(99)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  5,850 mL
                                                                    936 mL
   PO:
             TF:
   IVF:
                                                                  4,560 mL
                                                                    936 mL
   Blood products:
                                                                  1,150 mL
   Total out:
                                                                  1,224 mL
                                                                  1,434 mL
   Urine:
                                                                    170 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,626 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 29 cmH2O
   SpO2: 95%
   ABG: 7.38/41/89.[**Numeric Identifier 433**]/21/0
   Ve: 11 L/min
   PaO2 / FiO2: 89
   Physical Examination
   General Appearance:  Intubated, bear hugger on
   Neurologic: Unresponsive, Large/Fixed Pupils bilaterally
   Card: regular rhythm, normal rate, no murmur/r/g
   Peripheral Vascular: DP/PT pulses palpable bilaterally; extremities
   warm
   Skin:  No skin lesion identified
   Labs / Radiology
   115 K/uL
   12.0 g/dL
   132 mg/dL
   3.2 mg/dL
   21 mEq/L
   4.2 mEq/L
   56 mg/dL
   98 mEq/L
   136 mEq/L
   35.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2117-1-17**]  02:20 AM
                             [**2117-1-17**]  03:29 AM
                             [**2117-1-17**]  03:54 AM
                             [**2117-1-17**]  08:02 AM
                             [**2117-1-17**]  10:31 AM
                             [**2117-1-17**]  01:41 PM
                             [**2117-1-17**]  02:01 PM
                             [**2117-1-17**]  08:19 PM
                             [**2117-1-18**]  02:28 AM
                             [**2117-1-18**]  02:46 AM
   WBC
   20.9
   23.9
   15.4
   Hct
   47.3
   46.0
   35.5
   Plt
   [**Telephone/Fax (3) 10347**]
   Cr
   3.4
   4.0
   3.2
   TropT
   1.19
   1.25
   TCO2
   21
   22
   14
   15
   18
   22
   25
   Glucose
   [**Telephone/Fax (3) 10348**]
   Other labs: PT / PTT / INR:26.8/94.9/2.6, CK / CKMB /
   Troponin-T:936/38/1.25, ALT / AST:317/304, Alk Phos / T Bili:106/1.2,
   Differential-Neuts:89.1 %, Lymph:3.1 %, Mono:7.2 %, Eos:0.2 %, Lactic
   Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   CXR ([**2117-1-18**]): pending
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   #. CARDIAC ARREST: Etiology includes VT/Vfib secondary to scar tissue
   from prior infarction vs. new ischemic event.  He was on cooling
   protocol with Arctic Sun for 6 hours which had to be aborted because of
   bradycardia to 20s, which improved on dopamine 15 and isoproterenol 2.
   Amiodarone was discontinued on [**1-17**].  Despite better HR and blood
   pressure, patient's pupils are fixed and dilated indicating poor
   neurologic status.  Neurology consult states patient currently has
   completely no brainstem function seen on exam other than patient
   breathing over the vent.  Patient was initially on dopamine 15,
   isoproterenol 2, HR initially around 40, sBP 110s, but since 6pm on
   [**1-17**], HR in the 60s-70s, sBP in the 130s.  Overnight on [**1-17**], dopamine
   titrated down to 5, isoproterenol down to 1. HR 50-60s, sBP in the
   100s.
   - discontinue isoproterenol today
   - continue to titrate down on dopamine wean as tolerated with goal HR
   60s and MAP 55
   - f/u EP recs
   - f/u neuro recs
   - continue aspirin for possible NSTEMI
   - hold off on heparin for now given INR is climbing up after FFP is
   wearing off
   - hold on b-blocker while hypotensive on dopamine and isoproterenol
   .
   #. ANOXIC BRAIN INJURY:  Patient sustained cardiac arrest, and it is
   unclear how long patient was out.  To protect him from neurologic
   injury, patient was on arctic sun briefly (for 6h) which had to be
   stopped for bradycardia.  Patient currently has no brain stem reflex
   except for overbreathing on the vent, not arousable despite being off
   sedation, indicating very poor neuro prognosis.
   - continue to hold sedation
   - f/u neuro recs
   - will re-discuss with family regarding goals of care given poor neuro
   prognosis, in the presence of interpreter
   .
   #. RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lungs sound clear but diminished, chest CT with mild pulmonary
   edema.  PaO2 was low yesterday but after patient was turned to lie on
   his right side, PaO2 improved significantly.  O2 sats have always been
   good though.
   - wean vent settings as tolerated
   .
   #. COAGULOPATHY: INR and PTT [**Month/Year (2) 3779**] after FFP wore off.  Together with
   thrombocytopenia, concerning for DIC. Could also be due to liver
   failure given elevated LFTs.  Fibrinogen normal, arguing against DIC.
   - f/u on RBC smears
   - f/u on repeat LFTs
   - continue to follow coags
   - no anticoagulation for now
   .
   #. RHYTHM:  Patient with history of Afib on coumadin.  However,
   currently in sinus rhythm on dopamine and isoproterenol.
   - hold off on coumadin given INR is [**Month/Year (2) 3779**] after FFP worn off
   - continue dopamine, wean as tolerated
   - d/c isoproterenol
   - continue to monitor on tele
   .
   #. ANURIC RENAL FAILURE: Etiology for renal failure is likely ATN s/p
   shock and poor perfusion.  Patient was seen by renal yesterday, and a
   femoral HD line was placed.  CVVH was started on [**1-17**].
   - f/u renal recs
   - continue CVVH
   - continue to trend creatinine and lytes
   .
   #. CONGESTIVE HEART FAILURE: EF of 35-40%.  Pt is already intubated,
   has mild pulmonary edema on chest CT.
   - monitor respiratory status
   - holding ACE and BB given hypotension and bradycardia yesterday
   .
   #. LEUKOCYTOSIS: WBC down-trending.  Likely in the setting of stress
   response to cardiac arrest, also possibly due to NSTEMI. Patient also
   has grossly infected UA.
   - continue ceftriaxone (day1: [**1-17**])
   - f/u blood cultures, urine culture
   - continue to monitor
   .
   #. DM:
   - continue home insulin regimen of Lantus
   - regular insulin sliding scale while NPO
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2117-1-16**] 05:43 PM
   Arterial Line - [**2117-1-16**] 10:22 PM
   Dialysis Catheter - [**2117-1-17**] 06:47 PM
   Prophylaxis:
   DVT: INR >2
   Stress ulcer: IV famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: HCP is son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10331**] (H)
   [**Telephone/Fax (1) 10332**] (cell)
   Code status: full
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   He has limited brainstem function as he is overbreathing the
   ventilator. Neuro has seen patient, and has indicated that his
   prognosis isvery poor. Awaiting final documentaiton of cortical brain
   death. His wife and son arrive later today. Further discussion of end
   of life issues will occur at that time. For now the patient's family
   requests that the patient be DNR.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2117-1-18**] 10:22 ------

2117-01-19 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Final urine culture, no growth
   - Neuro recs: reiterates poor prognosis and absence of brainstem
   function save for spontaneous respirations, continue EEG for now
   - Switched to pressure support (16/5 on 80% FiO2) as ABG looked good &
   breathing above vent
   - LFT's climbing (ALT/AST/LDH 1758/1345/1208), T bili 2.0, INR 3.0
   - Sputum noted by respiratory to be bloody
   - Spiked temp to 102 at 5pm, blood & sputum cx sent
   - CRRT filter clotted off, so on hold for now
   - family, including wife, at bedside in late evening, no family
   decisions yet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-1-19**] 02:00 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2117-1-18**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-19**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   HR: 46 (46 - 72) bpm
   BP: 131/54(74) {91/45(59) - 150/62(88)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,686 mL
                                                                    375 mL
   PO:
             TF:
   IVF:
                                                                  2,586 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  5,225 mL
                                                                    170 mL
   Urine:
                                                                    575 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,539 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 675 (570 - 843) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 18
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/37/91.[**Numeric Identifier **]/22/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance:  Intubated, bear hugger on
   Neurologic: Unresponsive, Fixed Pupils bilaterally, with corneal reflex
   in L eye, none in right eye.  No oculocephalic reflex.  Non-purposeful
   eye movement bilaterally.  Has gag reflex.
   Resp: bibasilar crackles when auscultated from anterior
   Card: regular rhythm, bradycardic, no murmur/r/g
   Peripheral Vascular: (Right radial pulse: palpable), (Left radial
   pulse: palpable), (Right DP pulse: palpable), (Left DP pulse: palpable)
   Skin:  No skin lesion identified
   Labs / Radiology
   114 K/uL
   11.8 g/dL
   85 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.1 mEq/L
   53 mg/dL
   99 mEq/L
   133 mEq/L
   36.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2117-1-18**]  12:00 PM
                             [**2117-1-18**]  12:06 PM
                             [**2117-1-18**]  12:15 PM
                             [**2117-1-18**]  01:00 PM
                             [**2117-1-18**]  03:11 PM
                             [**2117-1-18**]  05:02 PM
                             [**2117-1-18**]  05:19 PM
                             [**2117-1-18**]  10:53 PM
                             [**2117-1-19**]  05:52 AM
                             [**2117-1-19**]  06:01 AM
   WBC
   12.9
   Hct
   36.0
   Plt
   114
   Cr
   2.5
   2.8
   3.6
   TCO2
   27
   20
   25
   25
   25
   Glucose
   50
   90
   75
   50
   112
   100
   85
   Other labs:
   PT / PTT / INR:30.2/46.7/3.0, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Micro:
   blood cx [**1-16**], [**1-18**] pending
   urine cx [**1-16**]: neg
   sputum cx [**1-18**]: 1+ gram neg diplococci
   CXR today: pending
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   #. CARDIAC ARREST: Etiology includes VT/Vfib secondary to hyperkalemia
   [**2-9**] renal failure, scar tissue from prior infarction vs. new ischemic
   event.  He was on cooling protocol with Arctic Sun for 6 hours which
   had to be aborted because of bradycardia to 20s, which improved on
   dopamine 15 and isoproterenol 2.  Amiodarone was discontinued on [**1-17**].
   Despite better HR and blood pressure, patient's pupils are non-reactive
   indicating poor neurologic status.  Neurology consult states patient
   has no brainstem function seen on exam other than patient breathing
   over the vent.  However, overnight on [**1-18**] patient was noted to have
   cough and gag reflex.   Patient continues to be unresponsive,
   indicating despite some brainstem function, cortical function is
   minimal at this time. Patient was initially on dopamine 15,
   isoproterenol 2, HR initially around 40, sBP 110s, but since 6pm on
   [**1-17**], HR in the 60s-70s, sBP in the 130s.  Overnight on [**1-17**], dopamine
   titrated down to 5, isoproterenol down to 1. HR 50-60s, sBP in the
   100s. Isoproterenol discontinued on [**1-18**], dopamine is being titrated
   down.
   - continue to titrate down on dopamine wean as tolerated with goal HR
   60s and MAP 55
   - continue aspirin for possible NSTEMI
   - hold off on heparin for now given INR is climbing up
   - hold on b-blocker for hypotension
   - f/u neuro recs
   - f/u EEG
   .
   #. ANOXIC BRAIN INJURY:  Patient sustained cardiac arrest, and it is
   unclear how long patient was out.  To protect him from neurologic
   injury, patient was on arctic sun briefly (for 6h) which had to be
   stopped for bradycardia.  Patient had no brain stem reflex except for
   overbreathing on the vent on [**1-18**], but currently does have some corneal
   reflex in left eye, has gag reflex.   EEG is not completely flat, but
   pt not arousable despite being off sedation, indicating very poor neuro
   prognosis.
   - continue to hold sedation
   - f/u neuro recs
   - f/u EEG
   - will re-discuss with family regarding goals of care given poor neuro
   prognosis, in the presence of interpreter
   .
   #. HYPOXIC RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lung exam revealed bibasilar crackles, chest CT with mild
   pulmonary edema.    CXR showed retrocardiac opacity/consolidation.  On
   pressure support, Requiring PEEP 16, PS 5, and FiO2 of 80%.  The most
   likely mechanism of hypoxia is V/Q mismatch, from pulmonary edema,
   retrocardiac consolidation and mediastinal hematoma.
   - wean vent settings as tolerated
   - continue ceftriaxone, start vanc today
   - continue CVVH if family wants to continue all care
   .
   #. FEVER AND LEUKOCYTOSIS: Patient spiked a fever yesterday [**1-18**].  WBC
   down-trending.  Likely in the setting of stress response to cardiac
   arrest, also possibly due to NSTEMI. Patient also has grossly infected
   UA, but urine culture was negative.  Sputum culture grew out 1+ gram
   neg diplococci. CXR showed retrocardiac opacity/consolidation.
   - continue ceftriaxone (day1: [**1-17**])
   - add vanc today, dose by level given pt on CVVH
   - f/u sputum culture speciation and sensitivities
   - f/u blood cultures
   - continue to monitor WBC and fever curve
   .
   #. ANURIC RENAL FAILURE: Etiology for renal failure is likely ATN s/p
   shock and poor perfusion.  Patient was seen by renal yesterday, and a
   femoral HD line was placed.  CVVH was started on [**1-17**], filter clotted
   on the afternoon of [**1-18**].
   - f/u renal recs
   - continue CVVH if family wants to continue all care
   - continue to trend creatinine and lytes
   .
   #. LIVER INJURY: LFT, INR and PTT rising, indicating possible shock
   liver in the setting of hypotension. Fibrinogen normal, arguing against
   DIC.
   - trend LFTs
   - continue to follow coags
   - no anticoagulation for now
   .
   #. RHYTHM:  Patient with history of Afib on coumadin.  However,
   currently in sinus rhythm on dopamine.
   - hold off on coumadin given INR >2
   - continue dopamine, wean as tolerated
   - continue to monitor on tele
   .
   #. CONGESTIVE HEART FAILURE: Patient had a repeat TTE on yesterday.  EF
   of 30-35% on repeat TTE on [**1-18**].  Pt is intubated, has mild pulmonary
   edema on chest CT and CXR.
   - monitor respiratory status
   - continue CVVH if family wants to continue all care
   - holding ACE and BB given hypotension and bradycardia
   .
   #. DM:
   - continue home insulin regimen of Lantus
   - regular insulin sliding scale while NPO
   ICU Care
   Nutrition:
   Start TF today
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2117-1-16**] 05:43 PM
   Arterial Line - [**2117-1-16**] 10:22 PM
   Dialysis Catheter - [**2117-1-17**] 06:47 PM
   Prophylaxis:
   DVT: INR >2
   Stress ulcer: IV famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: HCP is son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10331**] (H)
   [**Telephone/Fax (1) 10332**] (cell)
   Code status: full
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2117-1-21**] 10:04 ------

2117-01-20 07:02:00 Physician Resident Progress Note
Chief Complaint: unresponsive
   24 Hour Events:
   - family meeting: patient DNR, waiting for one more family member from
   [**Country 249**]
   - Sputum grows Moraxella (he's covered with Ceftriaxone)
   - Blood from fem-line growing Gram positive cocci
   - making urine at 30cc/hr
   - ABG is excellent
   - Liver enzymes trending down
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-1-19**] 02:00 AM
   Vancomycin - [**2117-1-19**] 12:00 PM
   Infusions:
   Dopamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2117-1-19**] 12:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-20**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   HR: 67 (49 - 71) bpm
   BP: 128/63(83) {108/55(71) - 176/79(109)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,549 mL
                                                                    457 mL
   PO:
             TF:
                                                                    194 mL
                                                                    240 mL
   IVF:
                                                                  1,150 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    160 mL
   Urine:
                                                                    785 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    764 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 620) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.42/33/77/20/-1
   Ve: 12.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished elderly man, lying in bed,
   intubated, NG tube in place
   Cardiovascular: (S1: Normal), (S2: Normal) No murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Clear to auscultation anteriorly
   Abdominal: Soft, Bowel sounds present, Moderately distended
   Extremities: Trace right lower extremity edema
   Neurologic: Both pupils reactive to light, right pupil anisocoric, gag
   reflex present, not responsive to light, voice, noxious stimuli, no
   spontaneous movements
   Labs / Radiology
   133 K/uL
   11.7 g/dL
   199 mg/dL
   3.9 mg/dL
   20 mEq/L
   4.3 mEq/L
   72 mg/dL
   102 mEq/L
   137 mEq/L
   35.6 %
   14.4 K/uL
        [image002.jpg]
                             [**2117-1-18**]  05:02 PM
                             [**2117-1-18**]  05:19 PM
                             [**2117-1-18**]  10:53 PM
                             [**2117-1-19**]  05:52 AM
                             [**2117-1-19**]  06:01 AM
                             [**2117-1-19**]  02:58 PM
                             [**2117-1-19**]  03:11 PM
                             [**2117-1-19**]  10:30 PM
                             [**2117-1-20**]  05:13 AM
                             [**2117-1-20**]  05:29 AM
   WBC
   12.9
   14.4
   Hct
   36.0
   35.6
   Plt
   114
   133
   Cr
   2.8
   3.6
   3.7
   3.9
   TCO2
   25
   25
   25
   24
   23
   22
   Glucose
   100
   85
   156
   199
   Other labs: PT / PTT / INR:31.4/47.2/3.1, CK / CKMB /
   Troponin-T:936/38/1.25, ALT / AST:1552/741, Alk Phos / T Bili:118/1.4,
   Differential-Neuts:89.1 %, Lymph:3.1 %, Mono:7.2 %, Eos:0.2 %,
   Fibrinogen:656 mg/dL, Lactic Acid:3.0 mmol/L, LDH:723 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   #. CARDIAC ARREST: Etiology includes VT/Vfib secondary to hyperkalemia
   [**2-9**] renal failure, scar tissue from prior infarction vs. new ischemic
   event.  He was on cooling protocol with Arctic Sun for 6 hours which
   had to be aborted because of bradycardia to 20s, which improved on
   dopamine 15 and isoproterenol 2.  Amiodarone was discontinued on [**1-17**].
   Despite better HR and blood pressure, patient's pupils are non-reactive
   indicating poor neurologic status.  Neurology consult states patient
   has no brainstem function seen on exam other than patient breathing
   over the vent.  However, overnight on [**1-18**] patient was noted to have
   cough and gag reflex.   Patient continues to be unresponsive,
   indicating despite some brainstem function, cortical function is
   minimal at this time. Patient was initially on dopamine 15,
   isoproterenol 2, HR initially around 40, sBP 110s, but since 6pm on
   [**1-17**], HR in the 60s-70s, sBP in the 130s.  Overnight on [**1-17**], dopamine
   titrated down to 5, isoproterenol down to 1. HR 50-60s, sBP in the
   100s. Isoproterenol discontinued on [**1-18**], dopamine is being titrated
   down.
   - continue to titrate down on dopamine wean as tolerated with goal HR
   60s and MAP 55
   - continue aspirin for possible NSTEMI
   - hold off on heparin for now given INR is climbing up
   - hold on b-blocker for hypotension
   - f/u neuro recs
   - f/u EEG
   .
   #. ANOXIC BRAIN INJURY:  Patient sustained cardiac arrest, and it is
   unclear how long patient was out.  To protect him from neurologic
   injury, patient was on arctic sun briefly (for 6h) which had to be
   stopped for bradycardia.  Patient had no brain stem reflex except for
   overbreathing on the vent on [**1-18**], but currently does have some corneal
   reflex in left eye, has gag reflex.   EEG is not completely flat, but
   pt not arousable despite being off sedation, indicating very poor neuro
   prognosis.
   - continue to hold sedation
   - f/u neuro recs
   - f/u EEG
   - will re-discuss with family regarding goals of care given poor neuro
   prognosis, in the presence of interpreter
   .
   #. HYPOXIC RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lung exam revealed bibasilar crackles, chest CT with mild
   pulmonary edema.    CXR showed retrocardiac opacity/consolidation.  On
   pressure support, Requiring PEEP 16, PS 5, and FiO2 of 80%.  The most
   likely mechanism of hypoxia is V/Q mismatch, from pulmonary edema,
   retrocardiac consolidation and mediastinal hematoma.
   - wean vent settings as tolerated
   - continue ceftriaxone, start vanc today
   - continue CVVH if family wants to continue all care
   .
   #. FEVER AND LEUKOCYTOSIS: Patient spiked a fever yesterday [**1-18**].  WBC
   down-trending.  Likely in the setting of stress response to cardiac
   arrest, also possibly due to NSTEMI. Patient also has grossly infected
   UA, but urine culture was negative.  Sputum culture grew out 1+ gram
   neg diplococci. CXR showed retrocardiac opacity/consolidation.
   - continue ceftriaxone (day1: [**1-17**])
   - add vanc today, dose by level given pt on CVVH
   - f/u sputum culture speciation and sensitivities
   - f/u blood cultures
   - continue to monitor WBC and fever curve
   .
   #. ANURIC RENAL FAILURE: Etiology for renal failure is likely ATN s/p
   shock and poor perfusion.  Patient was seen by renal yesterday, and a
   femoral HD line was placed.  CVVH was started on [**1-17**], filter clotted
   on the afternoon of [**1-18**].
   - f/u renal recs
   - continue CVVH if family wants to continue all care
   - continue to trend creatinine and lytes
   .
   #. LIVER INJURY: LFT, INR and PTT rising, indicating possible shock
   liver in the setting of hypotension. Fibrinogen normal, arguing against
   DIC.
   - trend LFTs
   - continue to follow coags
   - no anticoagulation for now
   .
   #. RHYTHM:  Patient with history of Afib on coumadin.  However,
   currently in sinus rhythm on dopamine.
   - hold off on coumadin given INR >2
   - continue dopamine, wean as tolerated
   - continue to monitor on tele
   .
   #. CONGESTIVE HEART FAILURE: Patient had a repeat TTE on yesterday.  EF
   of 30-35% on repeat TTE on [**1-18**].  Pt is intubated, has mild pulmonary
   edema on chest CT and CXR.
   - monitor respiratory status
   - continue CVVH if family wants to continue all care
   - holding ACE and BB given hypotension and bradycardia
   .
   #. DM:
   - continue home insulin regimen of Lantus
   - regular insulin sliding scale while NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-1-16**] 05:43 PM
   Arterial Line - [**2117-1-16**] 10:22 PM
   Dialysis Catheter - [**2117-1-17**] 06:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient
s family
   Code status: DNR, ok to intubate
   Disposition:

2117-01-21 07:10:00 Physician Resident Progress Note
Chief Complaint: post cardiac arrest
   24 Hour Events:
   [**1-20**]:
   - family discussion: no escalation of care (no pressors, DNR, do not
   re-intubate)
   - PIV x2 in, femoral CVL line, HD line and A-line removed
   - another daughter is coming from [**Country 249**] on [**Name (NI) 1583**]
   - family is ok with us removing the C-collar, but per spine, need MRI
   to clear c-spine
   - blood culture from [**1-18**] (drawn from A-line) also grew out GPC in
   clusters 2/4 bottles
   - blood culture from [**1-16**] grew out coag neg staph
   - [**Month/Day (4) **] trough: 12.7, given another dose of [**Last Name (LF) **], [**First Name3 (LF) 116**] recheck tomorrow
   at 11am
   - palliative care: no recs
   - neuro: low threshould to start anti-epileptic meds if noting sz
   activities.  Meaningful recovery is very unlikely.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-1-20**] 02:00 PM
   Ceftriaxone - [**2117-1-21**] 02:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 75 (67 - 78) bpm
   BP: 124/50(68) {113/49(68) - 156/62(79)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,760 mL
                                                                    489 mL
   PO:
             TF:
                                                                    986 mL
                                                                    257 mL
   IVF:
                                                                    774 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    200 mL
   Urine:
                                                                    860 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (532 - 700) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.45/30/59/21/-1
   Ve: 14.4 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, c-collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), DP pulses are doppler-able and biphasic
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, slow, diminished bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   12.9 g/dL
   286 mg/dL
   4.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   94 mg/dL
   105 mEq/L
   139 mEq/L
   40.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2117-1-18**]  10:53 PM
                             [**2117-1-19**]  05:52 AM
                             [**2117-1-19**]  06:01 AM
                             [**2117-1-19**]  02:58 PM
                             [**2117-1-19**]  03:11 PM
                             [**2117-1-19**]  10:30 PM
                             [**2117-1-20**]  05:13 AM
                             [**2117-1-20**]  05:29 AM
                             [**2117-1-20**]  09:27 AM
                             [**2117-1-21**]  04:21 AM
   WBC
   12.9
   14.4
   16.4
   Hct
   36.0
   35.6
   40.4
   Plt
   114
   133
   175
   Cr
   3.6
   3.7
   3.9
   4.1
   TCO2
   25
   25
   24
   23
   22
   21
   Glucose
   85
   156
   199
   286
   Other labs: PT / PTT / INR:22.3/38.3/2.1, CK / CKMB /
   Troponin-T:936/38/1.25, ALT / AST:1552/741, Alk Phos / T Bili:118/1.4,
   Differential-Neuts:89.1 %, Lymph:3.1 %, Mono:7.2 %, Eos:0.2 %,
   Fibrinogen:656 mg/dL, Lactic Acid:3.0 mmol/L, LDH:723 IU/L, Ca++:8.2
   mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Imaging: [**1-20**]
   In comparison with the study of [**1-19**], there is increasing sharpness
   of the pulmonary vessels, consistent with some improving elevation in
   pulmonary venous pressure. There are also may be some decrease in the
   retrocardiac lower lobe atelectasis in the left lung. Cardiomegaly
   persists.
   [**1-19**] EEG
   disorganization and slowing of the background rhythm with, at times,
   bifrontal semirhythmic delta activity with frequent embedded bifrontal
   spikes for runs of [**10-27**] seconds. This finding suggests potential for
   seizures and an underlying severe encephalopathy. Medications,
   toxic/metabolic disturbances, and infection are common causes. This
   finding may also be consistent with anoxic ischemic encephalopathy.
   This telemetry captured no pushbutton activations. There were no
   definite electrographic seizures contained in this study. Compared to
   the prior 24 hours, this study shows increase in brain activity. A
   routine EEG may be repeated in a couple of days to assess for any
   interval change.
   Microbiology: Morexella (Sputum) - [**1-18**]
   GPC's (blood) - [**1-18**]
   Coag Neg staph (blood) - [**1-16**]
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   #. CARDIAC ARREST: Etiology includes VT/Vfib secondary to hyperkalemia
   from renal failure, scar tissue from prior infarction vs. new ischemic
   event.  He was on cooling protocol with Arctic Sun for 6 hours which
   had to be aborted because of bradycardia to 20s, which improved on
   dopamine and isoproterenol .  Amiodarone was discontinued on [**1-17**].
   Despite better HR and blood pressure, patient's neurologic activity off
   sedation remains limited.  Patient continues to be unresponsive,
   despite some brainstem function, and cortical function per EEG is
   minimal at this time. Isoproterenol discontinued on [**1-18**], Dopamine
   discontinued [**1-20**]. All lines save for a PIV were pulled on [**1-21**].
   possible NSTEMI, on asa, no bb.
   - goal HR 60s and MAP 55
   - holding anticoagulation given supratherapeutic INR; though
   normalizing
   .
   #. ANOXIC BRAIN INJURY:  Patient sustained cardiac arrest s/p arctic
   sun terminated early for bradycardia.  Patient had no brain stem reflex
   except for overbreathing on the vent on [**1-18**], but currently does have
   some pupillary reflexes, a corneal reflex in the left eye, and gag
   reflex.   EEG shows moderate to severe encephalopathy with slightly
   increasing brain function but signs of likely anoxic brain injury (or
   'toxic-metabolic' changes). However, patient not arousable despite
   being off sedation, indicating poor neurologic prognosis. Family
   meeting held yesterday and family has made patient DNR. They are
   awaiting a final family member from [**Country 249**] before making further
   decisions. Ortho spine recommends an MRI of c-spine prior to d/c
   c-collar.
   - Palliative Care to see family today
   - Continue to hold sedation
   - f/u Neuro recs
   .
   #. HYPOXIC RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lung exam revealed bibasilar crackles, chest CT with mild
   pulmonary edema.    CXR clear.  On pressure support, requiring PEEP 14,
   PS 5, and FiO2 of 50%.  The most likely mechanism of hypoxia is V/Q
   mismatch from pulmonary edema and mediastinal hematoma.
   - wean vent settings as tolerated
   - continue Ceftriaxone & Vancomycin
   .
   #. FEVER AND LEUKOCYTOSIS: Patient spiked a fever to 102 on [**1-18**], now
   improved but still elevated around 100 on [**1-20**] and 101 on [**1-21**].  WBC
   increasing by 2 since [**1-19**].  Patient had grossly infected UA, but
   negative urine culture.  Sputum culture grew out Moraxella. CXR showed
   retrocardiac opacity/consolidation. Final aerobic & anaerobic blood
   culture from [**2117-1-16**] positive for coag neg staph, and bcx from [**1-18**] also
   positive for GPC. A-line and central lines pulled on [**1-20**].
   - continue Ceftriaxone (day 1: [**1-17**])
   - continue Vancomycin, dosed by level given renal failure (day 1:[**1-19**])
   - f/u final sputum & blood culture sensitivities
   - f/u remaining blood cultures
   - CXR, consider d/c regular cxr
   - continue to monitor WBC and fever curve
   .
   #. OLIGURIC RENAL FAILURE: UOP improving since admission, now ~ 20-30
   cc/hr. Etiology for renal failure is likely ATN s/p shock and poor
   perfusion. FeNa >1%. No CVVH since [**1-18**], K+ is stable (normal). HD line
   pulled.
   - f/u renal recs prn
   - continue to trend Creatinine and electrolytes for prognostication
   .
   #. LIVER INJURY: LFT
s trending down, INR and PTT stable indicating
   likely shock liver in the setting of hypotension. Fibrinogen >100,
   arguing against DIC.
   - continue to follow coags
   - no anticoagulation for now
   .
   #. RHYTHM:  Patient with history of Afib on coumadin.  However,
   currently in sinus rhythm on dopamine.
   - hold off on Coumadin given INR >2 and prognosis
   - continue to monitor on telemetry
   .
   #. CONGESTIVE HEART FAILURE: EF of 30-35% on repeat TTE on [**1-18**].  Pt is
   intubated, has mild pulmonary edema on chest CT and CXR.
   - CXR, consider d/c regular cxr
   - monitor respiratory status
   - holding ACE and BB given hypotension and bradycardia and
   .
   #. DM:
   - Glargine 10u qHS
   - Regular insulin sliding scale
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2117-1-21**] 04:12 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2117-1-20**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2117-1-21**] 10:36 ------

2117-01-22 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2117-1-21**] 08:30 PM
   - re-sputum cx
   - no change in abx for now, can add cefepime if becomes hemodynamically
   unstable
   - morphine 2mg x 1 for ? pain, did not appear to change RR, repeated x
   1 at 4mg
   - family mtg. with interpreter at 4pm Friday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-1-20**] 02:00 PM
   Ceftriaxone - [**2117-1-22**] 03:25 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-1-21**] 08:00 PM
   Morphine Sulfate - [**2117-1-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 81 (70 - 81) bpm
   BP: 136/60(82) {106/40(57) - 152/72(93)} mmHg
   RR: 28 (17 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82 kg (admission): 84.3 kg
   Height: 62 Inch
             Total In:
                                                                  1,763 mL
                                                                    499 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,333 mL
                                                                    399 mL
   IVF:
                                                                    290 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    200 mL
   Urine:
                                                                    925 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (548 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: ///20/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Neuro: non-arousable, pupils unequal, non-reactive to light, no corneal
   reflex, +gag reflex
   HEENT: Normocephalic, Endotracheal tube, c-collar
   Cardiovascular: irregularly irregular, normal s1, s2, no m/r/g
   Respiratory / Chest: rhonchrous when auscultating from anterior
   Abdominal: Bowel sounds present, soft, non-distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, no Cyanosis, no Clubbing
   Peripheral Vascular: (Right radial pulse: strong), (Left radial pulse:
   Diminished), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   11.4 g/dL
   287 mg/dL
   4.5 mg/dL
   20 mEq/L
   4.7 mEq/L
   117 mg/dL
   108 mEq/L
   141 mEq/L
   34.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2117-1-19**]  05:52 AM
                             [**2117-1-19**]  06:01 AM
                             [**2117-1-19**]  02:58 PM
                             [**2117-1-19**]  03:11 PM
                             [**2117-1-19**]  10:30 PM
                             [**2117-1-20**]  05:13 AM
                             [**2117-1-20**]  05:29 AM
                             [**2117-1-20**]  09:27 AM
                             [**2117-1-21**]  04:21 AM
                             [**2117-1-22**]  04:36 AM
   WBC
   12.9
   14.4
   16.4
   15.4
   Hct
   36.0
   35.6
   40.4
   34.5
   Plt
   114
   133
   175
   151
   Cr
   3.6
   3.7
   3.9
   4.1
   4.5
   TCO2
   25
   24
   23
   22
   21
   Glucose
   85
   156
   199
   286
   287
   Other labs:
   PT / PTT / INR:18.0/31.8/1.6,
   Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:3.5 mg/dL
   Vanc trough 15.6
   Sputum cx ([**1-21**]): MULTIPLE ORGANISMS CONSISTENT WITH OROPHARYNGEAL
   FLORA
   Blood culture ([**1-18**] from Aline, [**1-16**] from femoral CVL): coag-neg staph.
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   .
   #. CARDIAC ARREST / ANOXIC BRAIN INJURY:  Patient sustained cardiac
   arrest s/p arctic sun terminated early for bradycardia.  Etiology
   includes VT/Vfib secondary to hyperkalemia from renal failure, scar
   tissue from prior infarction vs. new ischemic event.  He was on cooling
   protocol with Arctic Sun for 6 hours which had to be aborted because of
   bradycardia to 20s, which improved on dopamine and isoproterenol.
   Amiodarone was discontinued on [**1-17**].  Isoproterenol discontinued on
   [**1-18**], Dopamine discontinued [**1-20**]. All lines save for a PIV were pulled
   on [**1-21**].  In terms of neurologic function, patient had no brain stem
   reflex except for overbreathing on the vent on [**1-18**], but currently does
   have a gag reflex.   EEG shows moderate to severe encephalopathy with
   slightly increasing brain function but signs of likely anoxic brain
   injury (or 'toxic-metabolic' changes). However, patient not arousable
   despite being off sedation, indicating poor neurologic prognosis.
   Family meeting held yesterday and family has made patient DNR. They are
   awaiting a final family member from [**Country 249**] before making further
   decisions. Ortho spine recommends an MRI of c-spine prior to d/c
   c-collar.
   - family meeting today at 4pm today, Palliative care may be able to
   join
   - Continue to hold sedation
   - f/u Neuro recs
   - goal HR 60s and MAP 55
   - no anticoagulation given poor overall prognosis and mediastinal
   hematoma
   .
   #. HYPOXIC RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lung exam rhonchrous, chest CT with mild pulmonary edema.
   CXR clear.  On pressure support, requiring PEEP 14, PS 5, and FiO2 of
   50%.  The most likely mechanism of hypoxia is V/Q mismatch from
   pulmonary edema (now resoloved on CXR), atelectasis and mediastinal
   hematoma.  ABG reveals respiratory alkalosis with metabolic
   compensation, and respiratory alkalosis is secondary to patient
   overbreathing on the vent (RR 22-36).  Morphine was given to see if it
   can decrease RR, but RR continued to be high, suggesting that either
   pain was not particularly responsible for the tachypnea, or higher dose
   morphine is required.
   - wean vent settings as tolerated
   - continue Vancomycin and ceftriaxone
   .
   #. FEVER AND LEUKOCYTOSIS: Patient spiked a fever to 102 on [**1-18**], now
   improved but still elevated at 100.7-100.8.  WBC stable.  Patient had
   grossly infected UA, but negative urine culture.  Sputum culture grew
   out Moraxella. CXR showed retrocardiac opacity/consolidation. Final
   aerobic & anaerobic blood culture from [**2117-1-16**] and [**1-18**] positive for
   coag neg staph. A-line and central lines pulled on [**1-20**].
   - continue Ceftriaxone (day 1: [**1-17**])
   - continue Vancomycin, dosed by level given renal failure (day
   1:[**1-19**]).  Level stable even though pt did not get a dose of vanc
   yesterday.  Will hold off on giving another dose today, will re-check
   level tomorrow
   - f/u final sputum & blood culture sensitivities
   - f/u remaining blood cultures
   - continue to monitor WBC and fever curve
   .
   #. OLIGURIC RENAL FAILURE: Creatinine is trending up, 4.5 today. UOP
   now ~ 20-30 cc/hr.  K 4.7, normal but up from 4.2 yesterday.  Etiology
   for renal failure is likely ATN s/p shock and poor perfusion. FeNa >1%.
   No CVVH since [**1-18**], HD line pulled.
   - f/u renal recs prn
   - continue to trend Creatinine and electrolytes for prognostication
   .
   #. LIVER INJURY: Patient sustained shock liver in the setting of
   hypotension, but currently LFT
s are trending down, INR and PTT are
   also trending down.
   - continue to follow coags
   - no anticoagulation given poor overall prognosis and mediastinal
   hematoma
   .
   #. RHYTHM:  Patient with history of Afib, was on coumadin prior to
   admission.
   - no anticoagulation given poor overall prognosis and mediastinal
   hematoma
   - continue to monitor on telemetry
   .
   #. DM:
   - Glargine 20u qHS
   - Regular insulin sliding scale
   .
   #. CONGESTIVE HEART FAILURE: EF of 30-35% on repeat TTE on [**1-18**].
   - no IVF today
   - monitor respiratory status, wean the ventilator as tolerated
   - holding ACE and BB given hypotension and bradycardia
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2117-1-22**] 02:09 AM 60 mL/hour
   Glycemic Control:  insulin
   Lines:
   20 Gauge - [**2117-1-20**] 04:00 PM
   Prophylaxis:
   DVT: - no anticoagulation given poor overall prognosis and mediastinal
   hematoma
   Stress ulcer: IV famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending family meeting today at 4pm
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2117-1-22**] 14:46 ------

2117-01-23 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decreased pressure support to 12
   - 1158: looked uncomfortable, gave 4 of morphine
   - 4pm: family meeting --> family prepared a statement, very thankful
   for the care Mr. [**Known lastname **] received; wants pt to be made CMO at 10am on
   Saturday
   - PS back up to 14 at 8pm; pt hyperventilating at 34, gave 4mg IV
   Morphine
   - patient has fever of 103.2 at 5 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-1-20**] 02:00 PM
   Ceftriaxone - [**2117-1-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-1-22**] 08:00 PM
   Morphine Sulfate - [**2117-1-22**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 39.4
C (102.9
   HR: 74 (73 - 88) bpm
   BP: 64/41(47) {57/33(44) - 139/69(81)} mmHg
   RR: 32 (26 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82 kg (admission): 84.3 kg
   Height: 62 Inch
             Total In:
                                                                  1,705 mL
                                                                    421 mL
   PO:
             TF:
                                                                  1,445 mL
                                                                    241 mL
   IVF:
                                                                    100 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                     20 mL
   Urine:
                                                                    540 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 350 (350 - 454) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 34
   PEEP: 14 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   11.4 g/dL
   287 mg/dL
   4.5 mg/dL
   20 mEq/L
   4.7 mEq/L
   117 mg/dL
   108 mEq/L
   141 mEq/L
   34.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2117-1-19**]  05:52 AM
                             [**2117-1-19**]  06:01 AM
                             [**2117-1-19**]  02:58 PM
                             [**2117-1-19**]  03:11 PM
                             [**2117-1-19**]  10:30 PM
                             [**2117-1-20**]  05:13 AM
                             [**2117-1-20**]  05:29 AM
                             [**2117-1-20**]  09:27 AM
                             [**2117-1-21**]  04:21 AM
                             [**2117-1-22**]  04:36 AM
   WBC
   12.9
   14.4
   16.4
   15.4
   Hct
   36.0
   35.6
   40.4
   34.5
   Plt
   114
   133
   175
   151
   Cr
   3.6
   3.7
   3.9
   4.1
   4.5
   TCO2
   25
   24
   23
   22
   21
   Glucose
   85
   156
   199
   286
   287
   Other labs: PT / PTT / INR:18.0/31.8/1.6, CK / CKMB /
   Troponin-T:936/38/1.25, ALT / AST:1552/741, Alk Phos / T Bili:118/1.4,
   Differential-Neuts:89.1 %, Lymph:3.1 %, Mono:7.2 %, Eos:0.2 %,
   Fibrinogen:656 mg/dL, Lactic Acid:3.0 mmol/L, LDH:723 IU/L, Ca++:7.9
   mg/dL, Mg++:2.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   79yo M w/hx of CAD s/p MI X 2, CHF, DM, Stage IV CKD who presents s/p
   cardiac arrest.
   PLAN FOR [**2117-1-23**]
   At 10am, pt will be extubated and made CMO at 10 am. We will not
   escalate care with regards to blood pressure and fever.
   .
   #. CARDIAC ARREST / ANOXIC BRAIN INJURY:  Patient sustained cardiac
   arrest s/p arctic sun terminated early for bradycardia.  Etiology
   includes VT/Vfib secondary to hyperkalemia from renal failure, scar
   tissue from prior infarction vs. new ischemic event.  He was on cooling
   protocol with Arctic Sun for 6 hours which had to be aborted because of
   bradycardia to 20s, which improved on dopamine and isoproterenol.
   Amiodarone was discontinued on [**1-17**].  Isoproterenol discontinued on
   [**1-18**], Dopamine discontinued [**1-20**]. All lines save for a PIV were pulled
   on [**1-21**].  In terms of neurologic function, patient had no brain stem
   reflex except for overbreathing on the vent on [**1-18**], but currently does
   have a gag reflex.   EEG shows moderate to severe encephalopathy with
   slightly increasing brain function but signs of likely anoxic brain
   injury (or 'toxic-metabolic' changes). However, patient not arousable
   despite being off sedation, indicating poor neurologic prognosis.
   Family meeting held yesterday and family has made patient DNR. They are
   awaiting a final family member from [**Country 249**] before making further
   decisions. Ortho spine recommends an MRI of c-spine prior to d/c
   c-collar.
   - CMO today
   - morphine drip if uncomfortable
   .
   #. HYPOXIC RESPIRATORY FAILURE: Pt currently on ventilator, s/p cardiac
   arrest.  Lung exam rhonchrous, chest CT with mild pulmonary edema.
   CXR clear.  On pressure support, requiring PEEP 14, PS 5, and FiO2 of
   50%.  The most likely mechanism of hypoxia is V/Q mismatch from
   pulmonary edema (now resoloved on CXR), atelectasis and mediastinal
   hematoma.  ABG reveals respiratory alkalosis with metabolic
   compensation, and respiratory alkalosis is secondary to patient
   overbreathing on the vent (RR 22-36).  Morphine was given to see if it
   can decrease RR, but RR continued to be high, suggesting that either
   pain was not particularly responsible for the tachypnea, or higher dose
   morphine is required.
   .
   #. FEVER AND LEUKOCYTOSIS: Patient spiked a fever to 102 on [**1-18**], now
   improved but still elevated at 100.7-100.8.  WBC stable.  Patient had
   grossly infected UA, but negative urine culture.  Sputum culture grew
   out Moraxella. CXR showed retrocardiac opacity/consolidation. Final
   aerobic & anaerobic blood culture from [**2117-1-16**] and [**1-18**] positive for
   coag neg staph. A-line and central lines pulled on [**1-20**].
   -d/c abx today
   .
   #. OLIGURIC RENAL FAILURE: Creatinine is trending up, 4.5 today. UOP
   now ~ 20-30 cc/hr.  K 4.7, normal but up from 4.2 yesterday.  Etiology
   for renal failure is likely ATN s/p shock and poor perfusion. FeNa >1%.
   No CVVH since [**1-18**], HD line pulled.
   - cmo today
   .
   #. LIVER INJURY: Patient sustained shock liver in the setting of
   hypotension, but currently LFT
s are trending down, INR and PTT are
   also trending down.
   - no anticoagulation given poor overall prognosis and mediastinal
   hematoma
   .
   #. RHYTHM:  Patient with history of Afib, was on coumadin prior to
   admission.
   .
   #. DM:
   .
   #. CONGESTIVE HEART FAILURE: EF of 30-35% on repeat TTE on [**1-18**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-1-20**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only at 10 am, DNR until then
   Disposition:
   ------ Protected Section ------
   Attending
s Note: 09.00Hrs
   Agree with note and reviewed data.
   Plan is to extubate and allow natural course.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 25 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2117-1-23**] 10:47 ------